US09326987B2
4-[5-(Cyclohexylmethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1H-indazole
6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole (1:1) (100 mg, 0.084 mmol) and cyclohexylacetyl chloride (0.257 ml, 1.672 mmol) in chloroform (4 ml), were heated under microwave irradiation at 100° C. for 1 h. The reaction mixture was treated with isopropanol (2 ml), the solvent reduced by blowing down to −2 ml and absorbed onto Florisil. The Florisil was placed on top of a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. Appropriate fractions combined and concentrated to give a yellow solid, 17 mg. The solid was treated with isopropanol (0.5 ml) and 2M aqueous sodium hydroxide (0.498 ml, 0.995 mmol) and stirred at 20° C. for 20 h. The mixture was then treated with 2M aqueous hydrochloric acid (1 ml), blown to dryness and slurried in isopropanol (2 ml) and dichloromethane (1 ml) with sonication. The mixture was absorbed onto Florisil, then loaded onto a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. Appropriate fractions were combined and evaporated to give the title compound as an off-white solid (3.2 mg).

reactant | 6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole | 0.084 mmol, 100 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=NN1
reactant | cyclohexylacetyl chloride | 1.672 mmol, 0.257 ml | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | sodium hydroxide | 0.995 mmol, 2M, 0.498 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 1 ml | Cl | ClH
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-[5-(Cyclohexylmethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1H-indazole | 3.2 mg | C1(CCCCC1)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1 | C24H23N5O
